US06001855
200 ml of 50% sodium hydroxide solution and 1 g of butylammonium hydrogen sulphate are added to a solution of 21.5 g of tert-butyl rac 3-hydroxymethyl-piperidine-1-carboxylate [K. Hilpert et al., J. Med. Chem., 37: 3889 (1994); EP 0 468 231] in 200 ml of toluene. The 2-phase mixture is cooled to 15° C. and treated with 30 ml of ethyl bromoacetate while stirring vigorously. After stirring at room temperature for 2.5 hours the reaction mixture is poured on to ice-water and extracted twice with ether. The organic phases are washed 4 times with water. The combined aqueous phases are acidified with concentrated hydrochloric acid and extracted twice with ethyl acetate. The ethyl acetate phases are washed with sodium chloride solution, dried and evaporated. There are obtained 18.3 g of tert-butyl rac-3-carboxymethoxymethyl-piperidine-1-carboxylate as a yellow oil, MS: 273 (M)+.

reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | butylammonium hydrogen sulphate | 1 g | S(=O)(=O)(O)[O-].C(CCC)[NH3+]
reactant | tert-butyl rac 3-hydroxymethyl-piperidine-1-carboxylate | 21.5 g | OCC1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | ethyl bromoacetate | 30 ml | BrCC(=O)OCC | C4H7BrO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl rac-3-carboxymethoxymethyl-piperidine-1-carboxylate | 18.3 g | C(=O)(O)COCC1CN(CCC1)C(=O)OC(C)(C)C | C13H23NO5
